US06826033B2
To a mixture of (2S)-3-(4-aminophenyl)-2-[N-benzyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-1-propanol (79 mg) and pyrrole-2-carboxylic acid (26 mg) in dichloromethane (0.8 ml) was added 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (59 mg), and the mixture was stirred at room temperature for 47 hours. The mixture was partitioned between ethyl acetate and water. The organic layer was separated, washed with brine, dried over magnesium sulfate, and filtered. The filtrate was concentrated, and the residue was purified by column chromatography (silica gel, hexane/ethyl acetate) to give N-[4-[(2S)-2-[N-benzyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-3-hydroxypropyl]-phenyl]-1H-pyrrole-2-carboxamide (48 mg) as a white amorphous powder.

reactant | (2S)-3-(4-aminophenyl)-2-[N-benzyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-1-propanol | 79 mg | NC1=CC=C(C=C1)C[C@@H](CO)N(C[C@@H](COC1=CC=CC=C1)O)CC1=CC=CC=C1 | C25H30N2O3
reactant | pyrrole-2-carboxylic acid | 26 mg | N1C(=CC=C1)C(=O)O | C5H5NO2
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 59 mg | Cl.CN(CCCN=C=NCC)C
solvent | dichloromethane | 0.8 ml | ClCCl | CH2Cl2
product | N-[4-[(2S)-2-[N-benzyl-N-[(2S)-2-hydroxy-3-phenoxypropyl]amino]-3-hydroxypropyl]-phenyl]-1H-pyrrole-2-carboxamide | 48 mg | C(C1=CC=CC=C1)N(C[C@@H](COC1=CC=CC=C1)O)[C@@H](CC1=CC=C(C=C1)NC(=O)C=1NC=CC1)CO | C30H33N3O4
